### PR TITLE
feat: Formalize Erdős Problem 1052

### LINKED ISSUE #901: Erdős Problem 1052
### What is the conjecture
https://www.erdosproblems.com/700

A unitary divisor of $n$ is $d \mid n$ such that $(d, n/d) = 1$. A number $n \ge 1$ is a [unitary perfect number](https://en.wikipedia.org/wiki/Unitary_perfect_number) if it is the sum of its unitary divisors (aside from $n$ itself).
Are there only finite many unitary perfect numbers?

### Choose either option
- [x] I plan on adding this conjecture to the repository
- [ ] This issue is up for grabs: I would like to see this conjecture added by somebody else

### PR DESCRIPTION
**Pull request by junseokl**
Fixes #901.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1052.lean [hunk 1]
```diff
@@ -0,0 +1,72 @@
...
+WITHOUT WARRANTIES OR CONDITIONS OF ANY KIND, either express or implied.
+See the License for the specific language governing permissions and
+limitations under the License.
+-/
+
+import FormalConjectures.Util.ProblemImports
+
+/-!
+# Erdős Problem 1052
+*Reference:* [erdosproblems.com/1052](https://www.erdosproblems.com/1052)
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1052.lean:22]:
```suggestion
# Erdős Problem 1052

*Reference:* [erdosproblems.com/1052](https://www.erdosproblems.com/1052)
```

File: FormalConjectures/ErdosProblems/1052.lean [hunk 2]
```diff
@@ -0,0 +1,72 @@
...
+
+namespace Erdos1052
+
+/-- A proper unitary divisor of $n$ is $d \mid n$
+such that $(d, n/d) = 1$ other than $n$. -/
+def properUnitaryDivisors (n : ℕ) : Finset ℕ :=
+  {d ∈ Finset.Ico 1 n | d ∣ n ∧ d.Coprime (n / d)}
+
+/-- A number $n \ge 1$ is a unitary perfect number if
+it is the sum of its proper unitary divisors. -/
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1052.lean]:
```suggestion
/-- A number $n >0$ is a unitary perfect number if it is the sum of its proper unitary divisors. -/
```

File: FormalConjectures/ErdosProblems/1052.lean [hunk 3]
```diff
@@ -0,0 +1,72 @@
...
+def IsUnitaryPerfect (n : ℕ) : Prop :=
+  ∑ i ∈ properUnitaryDivisors n, i = n ∧ 0 < n
+
+/-- **Erdős Problem 1052**:
+Are there only finitely many unitary perfect numbers? -/
+@[category research open, AMS 11]
+theorem erdos_1052 :
+    {n : ℕ | IsUnitaryPerfect n}.Finite ↔ answer(sorry) := by
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1052.lean]:
```suggestion
    Set.Finite IsUnitaryPerfect ↔ answer(sorry) := by
```

Perhaps a question of taste, but this works as well

Comment (mo271) [inline FormalConjectures/ErdosProblems/1052.lean]:
```suggestion
    Set.Finite IsUnitaryPerfect ↔ answer(sorry) := by
```

Perhaps a question of taste, but this works as well

File: FormalConjectures/ErdosProblems/1052.lean [hunk 4]
```diff
@@ -0,0 +1,72 @@
...
+such that $(d, n/d) = 1$ other than $n$. -/
+def properUnitaryDivisors (n : ℕ) : Finset ℕ :=
+  {d ∈ Finset.Ico 1 n | d ∣ n ∧ d.Coprime (n / d)}
+
+/-- A number $n \ge 1$ is a unitary perfect number if
+it is the sum of its proper unitary divisors. -/
+def IsUnitaryPerfect (n : ℕ) : Prop :=
+  ∑ i ∈ properUnitaryDivisors n, i = n ∧ 0 < n
+
+/-- **Erdős Problem 1052**:
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/1052.lean]:
```suggestion
/--
```

**Review by mo271 — APPROVED** [review]
Thanks, LGTM, only a few nits, which don't change the mathematical meaning of any of the statements.

**Comment by mo271** [comment]
Thanks again, @junseokl, very nice!
